US06919353B2
To a solution of 6-bromomethyl-8-bromoquinoline (60 g, 200 mmol, described in International Patent Publication WO 94/22852) in DMF (500 mL) was added sodium methanesulfinate (27.6 g, 270 mmol). After stirring overnight at 21° C., the mixture was quenched with H2O (2L), stirred for 1 h, isolated by filtration, and washed with Et2O to yield the 8-Bromo-6-methanesulfonylmethyl-quinoline as a white solid.

reactant | 6-bromomethyl-8-bromoquinoline | 200 mmol, 60 g | BrCC=1C=C2C=CC=NC2=C(C1)Br | C10H7Br2N
reactant | sodium methanesulfinate | 270 mmol, 27.6 g | CS(=O)[O-].[Na+]
solvent | DMF | 500 mL | CN(C)C=O | C3H7NO
product | 8-Bromo-6-methanesulfonylmethyl-quinoline | BrC=1C=C(C=C2C=CC=NC12)CS(=O)(=O)C | C11H10BrNO2S
